US04605664
To a solution of (+)-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetic acid (21.8 g., 0.0623 mole) in chloroform (150 ml) and dimethylformamide (1 drop) is added thionyl chloride (25 ml). The reaction mixture is heated at reflux for 3 hours, cooled and concentrated at reduced pressure. The crude (+)-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetyl chloride, thus obtained, is dissolved in methylene chloride (75 ml) and added over 0.5 hour to a mixture of ether (100) ml) and methylene chloride (75 ml) which has been saturated with ammonia.

reactant | (+)-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetic acid | 0.0623 mole, 21.8 g | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)CC(=O)O | C17H18Cl2O3
reactant | thionyl chloride | 25 ml | S(=O)(Cl)Cl | Cl2OS
solvent | chloroform | 150 ml | C(Cl)(Cl)Cl | CHCl3
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | (+)-(6,7-dichloro-2-cyclopentyl-2,3-dihydro-2-methyl-1-oxo-1H-inden-5-yl)acetyl chloride | ClC1=C(C=C2CC(C(C2=C1Cl)=O)(C)C1CCCC1)CC(=O)Cl | C17H17Cl3O2
